US07595397B2
3-Phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperidine
100 mg of 1-(4-Bromo-benzyl)-3-phenyl-piperidine was combined with 862 mg of 2-(Trifluoromethyl)phenyl boronic acid, 35 mg of tetrakis(triphenylphosphine)palladium(0), 1.015 mL of 2M sodium carbonate solution, 2.7 mL toluene and 1.4 mL ethanol. The reaction mixture was heated in a sealed tube at 120° C. overnight in an oil bath. The reaction mixture was filtered through Celite and concentrated in vacuo. The residue was purified by reverse phase HPLC. ES MS (+) m/z 396, 100% yield

reactant | 1-(4-Bromo-benzyl)-3-phenyl-piperidine | 100 mg | BrC1=CC=C(CN2CC(CCC2)C2=CC=CC=C2)C=C1 | C18H20BrN
reactant | 2-(Trifluoromethyl)phenyl boronic acid | 862 mg | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 2M, 1.015 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 2.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 3-Phenyl-1-(2′-trifluoromethyl-biphenyl-4-ylmethyl)-piperidine | 100% yield | C1(=CC=CC=C1)C1CN(CCC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(F)(F)F | C25H24F3N
